US04053596
B. 1-[3-(3-Indenyl)propyl]piperidine
3-(3'-Bromopropyl)indene (94.8 g, 0.4 M) and piperidine (76 g, 0.9 M) are dissolved in 400 ml toluene. The mixture is heated under reflux 2 hours. After cooling, a large amount of solid is removed by filtration and washed with ether. The combined filtrate and washes are concentrated in vacuo. The residue is dissolved in ether and filtered to remove a small amount of insoluble material. The ether is removed in vacuo and the product is distilled collecting a fraction of 87.3 g (89% yield) boiling 132°-153°/0.05 mm.

reactant | 3-(3'-Bromopropyl)indene | 0.4 M, 94.8 g | BrCCCC1=CCC2=CC=CC=C12 | C12H13Br
reactant | piperidine | 0.9 M, 76 g | N1CCCCC1 | C5H11N
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[3-(3-Indenyl)propyl]piperidine | 89% yield | C1C=C(C2=CC=CC=C12)CCCN1CCCCC1 | C17H23N
